US06265415B1
Synthesis of 2,6-dimethyl-8-(2,6-dimethyl-4-fluorobenzylamino)-3-hydroxymethylimidazo[1,2-a]pyridine
A solution of 0.4 g (1.1 mmol) of 3-carboethoxy-2,6-dimethyl-8-(2,6-dimethyl-4-fluorobenzylamino)-imidazo[1,2-a]pyridine in 10 ml toluene was chilled with ice-water, (2.1 g, 6.6 mmol). Red-l 65% in toluene was added after 30 min. The solution was stirred for 2 h at room temperature. 10 ml of Rochelle-salt solution, (35 g sodium potassium tartrate tetrahydrate/250 ml water) was added dropwise, 10 ml toluene was added, the organic layer was separated, washed with water, dried over sodium sulfate and evaporated under reduced pressure.

reactant | 3-carboethoxy-2,6-dimethyl-8-(2,6-dimethyl-4-fluorobenzylamino)-imidazo[1,2-a]pyridine | 1.1 mmol, 0.4 g | C(=O)(OCC)C1=C(N=C2N1C=C(C=C2NCC2=C(C=C(C=C2C)F)C)C)C | C21H24FN3O2
reactant | sodium potassium tartrate tetrahydrate | 250 ml, 35 g | O.O.O.O.C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-dimethyl-8-(2,6-dimethyl-4-fluorobenzylamino)-3-hydroxymethylimidazo[1,2-a]pyridine | CC=1N=C2N(C=C(C=C2NCC2=C(C=C(C=C2C)F)C)C)C1CO | C19H22FN3O
